US07923450B2
d) 2-[1-Dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone
2-(Morpholine-4-carbonyl)-cyclohexanone (17 mg, 0.08 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (16 mg) as a yellow oil which was used directly in the next step. MS ISP (m/e): 267.5 (100) [(M+H)+].

reactant | 2-(Morpholine-4-carbonyl)-cyclohexanone | 0.08 mmol, 17 mg | N1(CCOCC1)C(=O)C1C(CCCC1)=O | C11H17NO3
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone | 16 mg | CN(C=C1C(C(CCC1)C(=O)N1CCOCC1)=O)C | C14H22N2O3
